US07759373B2
To a solution of 5-ethyl-4-(3-pyridyl)imidazole (1.50 g) and potassium acetate (2.55 g) in methanol (40 ml) was added iodine (2.86 g), and the mixture was stirred at room temperature overnight. To the reaction mixture were added water and ethyl acetate, and the organic layer was collected, washed with a saturated aqueous sodium thiosulfate solution and brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified by NH silica gel flush column chromatography (solvent: ethyl acetate) to obtain 5-ethyl-2-iodo-4-(3-pyridyl)imidazole (1.75 g).

reactant | 5-ethyl-4-(3-pyridyl)imidazole | 1.50 g | C(C)C1=C(N=CN1)C=1C=NC=CC1 | C10H11N3
reactant | potassium acetate | 2.55 g | C(C)(=O)[O-].[K+]
reactant | iodine | 2.86 g | II | I2
reactant | water | O | H2O
solvent | methanol | 40 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-ethyl-2-iodo-4-(3-pyridyl)imidazole | 1.75 g | C(C)C1=C(N=C(N1)I)C=1C=NC=CC1 | C10H10IN3
